* DDR3 single-ended timing comparison with series resistor sweep
* 45 mm trace, ODT 120 ohm, 1066 MT/s (period ~938ps)
* Sweep RS = 0,10,20,30,33,40,50,60 ohm

***************************************************
* Parameters
***************************************************
.param VDDQ = 1.2
.param Z0   = 50
.param length_mm = 45
* Approx propagation: 100 ps / inch (change if you know your PCB velocity)
.param ps_per_inch = 100p
.param TD = { length_mm/25.4 * ps_per_inch }   ; transmission line delay
.param RS = 22        ; default, will be stepped
.param Rdriver = 20   ; simplified driver output resistance (extract from IBIS for accuracy)
.param rise = 100p
.param fall = 100p
.param period = 938p
.param pw = {period/2} ; 50% duty toggle

.model Dclamp D(Is=1e-9 N=1.5 Rs=0.1 Cjo=1p)

***************************************************
* Stimulus: toggling at bit rate (single-ended data)
***************************************************
Vdrv drv 0 PULSE(0 {VDDQ} 0 {rise} {fall} {pw} {period})

* Simplified IBIS-derived output: Thevenin (series Rdriver) + clamp diodes
RoutBA0 drv BA0 {Rdriver}
* clamp diodes (simple diode to rails) - adjust models to match IBIS clamps if available
DpuBA0 BA0 VDDQ Dclamp
DpdBA0 0 BA0 Dclamp

* Simplified IBIS-derived output: Thevenin (series Rdriver) + clamp diodes
RoutA0 drv DDR_A0 {Rdriver}
* clamp diodes (simple diode to rails) - adjust models to match IBIS clamps if available
DpuA0 DDR_A0 VDDQ Dclamp
DpdA0 0 DDR_A0 Dclamp

***************************************************
* Line A: NO series resistor (direct to line)
***************************************************
* lossless transmission line element (Z0, delay TD)
TL_BA0 BA0 BA0_1 0 0 Z0={Z0} TD={TD}
* ODT termination on line A (to Vref)
Vref Vref 0 DC {VDDQ/2}
RodtBA0 BA0_1 Vref 120

***************************************************
* Line B: with series resistor RS
***************************************************
Rseries nodeA nodeB {RS}
TLB nodeB nodeLoadB 0 0 Z0={Z0} TD={TD}
RodtB nodeLoadB Vref 120

***************************************************
* Probes and measurements
***************************************************
.tran 10p 5n uic
* Sweep RS across a set of values
* .step param RS list 0 10 20 30 33 40 50 60

* Optional: measure 50% crossing times for load nodes (visual inspection is often easiest)
* Note: different SPICE variants have slightly different .measure syntax. For a visual compare,
* plot nodeLoadA and nodeLoadB for each RS value (NGSpice will overlay sweeps).
.control
  run
  * plot the two load nodes; NGSpice will overlay traces for each RS step
  plot v(nodeLoadA) v(nodeLoadB) v(drv)
  * You can also print the final value or probe particular waveforms:
  * print v(nodeLoadA) v(nodeLoadB)
.endc

.end

